US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-morpholin-4-yl-phenyl)-4-phenyl-piperidin-1-yl]-methanone
The title compound, MS: m/e=563.3 (M+), was prepared in accordance with the general method of example 10 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-phenyl-piperidin-1-yl]-methanone, morpholine and biphenyl-2-yl-dicyclohexyl-phosphane as ligand.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)(F)F | C26H20ClF6NO
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | biphenyl-2-yl-dicyclohexyl-phosphane | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-morpholin-4-yl-phenyl)-4-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC=CC=C1)C1=CC=C(C=C1)N1CCOCC1)(F)F | C30H28F6N2O2
